US07902181B2
(S)-N-((S)-1-Cyano-2-(4′-(N-(2-hydroxyethyl)sulfamoyl)biphenyl-4-yl)ethyl)piperidine-2-carboxamide
(S)-tert-Butyl 2-((S)-1-cyano-2-(4-iodophenyl)ethylcarbamoyl)piperidine-1-carboxylate (0.15 g) and bis[1,2-bis(diphenylphosphino)ethane]palladium (0) (2.80 mg, 3.10 μmol) were added to dioxane (3 mL) and 4-(N-(2-(tert-butyldimethylsilyloxy)ethyl)sulfamoyl)-phenylboronic acid (0.167 g) was added to the mixture which was then stirred, under nitrogen, for 10 min. Potassium carbonate (2M solution) (0.310 mL) was added and the reaction mixture was heated at 75° C. for 3 h. The reaction mixture was poured onto a Isolute HM-N cartridge and product was eluted with DCM. Solvent was removed in vacuo and the residue was dissolved in THF (5 mL). The resulting solution was cooled in an ice-bath and TBAF (1M solution in THF, 0.626 mL) was added and stirring was continued for 2 h. The reaction mixture was concentrated in vacuo and dissolved in formic acid (5 mL). The resulting solution was heated at 50° C. for 10 min. The reaction mixture was concentrated in vacuo, dissolved in methanol and loaded onto an SCX cartridge. Non-basic impurities were washed off with methanol then the desired compound was eluted with 10% ammonia in methanol. Solvent was removed in vacuo to give the title compound (0.025 g).

reactant | (S)-tert-Butyl 2-((S)-1-cyano-2-(4-iodophenyl)ethylcarbamoyl)piperidine-1-carboxylate | 0.15 g | C(#N)[C@H](CC1=CC=C(C=C1)I)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C20H26IN3O3
reactant | 4-(N-(2-(tert-butyldimethylsilyloxy)ethyl)sulfamoyl)-phenylboronic acid | 0.167 g | [Si](C)(C)(C(C)(C)C)OCCNS(=O)(=O)C1=CC=C(C=C1)B(O)O | C14H26BNO5SSi
reactant | Potassium carbonate | 2M, 0.310 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | bis[1,2-bis(diphenylphosphino)ethane]palladium (0) | 3.10 μmol, 2.80 mg | C1=CC=C(C=C1)P(CCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.C1=CC=C(C=C1)P(CCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.[Pd]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (S)-N-((S)-1-Cyano-2-(4′-(N-(2-hydroxyethyl)sulfamoyl)biphenyl-4-yl)ethyl)piperidine-2-carboxamide | 0.025 g | C(#N)[C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)S(NCCO)(=O)=O)NC(=O)[C@H]1NCCCC1 | C23H28N4O4S
